US06218431B1
Step A: Di-tert-butyl 4,6-diethyl-2-hydroxy-1,3-benzenedicarboxylate
A mixture of di-tert-butyl 1,3-acetonedicarboxylate (10 g, 38.7 mmol), 3,5-heptanedione (6.5 g, 50.3 mmol) and sodium methoxide (2.7 g, 50.3 mmol) in methanol (100 mL) was stirred at room temperature overnight. Methanol was removed via rotary evaporation and the resulting orange sludge was partitioned between diethyl ether (100 mL) and 10% aqueous hydrochloric acid (100 mL). The separated aqueous layer was extracted with diethyl ether (50 mL×2). The combined organic portions were washed with saturated aqueous sodium chloride (20 mL), dried over sodium sulfate, filtered through a pad of silica (20 mm×40 mm) and concentrated in vacuo to yield a yellow oil (13.23 g, 97%): 1H NMR (300 MHz, CDCl3): δ 1.20 (t, 6H), 1.60 (s, 18H) 2.74 (q, 4H), 6.55 (s, 1H), 11.73 (s, 1H).

reactant | di-tert-butyl 1,3-acetonedicarboxylate | 38.7 mmol, 10 g | CC(C)(C)OC(=O)CC(=O)CC(=O)OC(C)(C)C | C13H22O5
reactant | 3,5-heptanedione | 50.3 mmol, 6.5 g | CCC(CC(CC)=O)=O | C7H12O2
reactant | sodium methoxide | 50.3 mmol, 2.7 g | C[O-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | Di-tert-butyl 4,6-diethyl-2-hydroxy-1,3-benzenedicarboxylate | 13.23 g, 97% | C(C)C1=C(C(=C(C(=C1)CC)C(=O)OC(C)(C)C)O)C(=O)OC(C)(C)C | C20H30O5
